US05223498
A solution of 4-(2-aminophenyl)morpholine (5.8 g) in dichloromethane (60 ml) was treated with n-butyl isothiocyanate (5 g) and mixture stirred at room temperature for 4 days to yield 1-(n-butyl)-3-(2-morpholinophenyl)thiourea as a pale yellow solid (m.p. 105° C.).

reactant | 4-(2-aminophenyl)morpholine | 5.8 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | n-butyl isothiocyanate | 5 g | C(CCC)N=C=S | C5H9NS
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 1-(n-butyl)-3-(2-morpholinophenyl)thiourea | C(CCC)NC(=S)NC1=C(C=CC=C1)N1CCOCC1 | C15H23N3OS
